US07514567B2
3′-[5-(2-Pyridyl)thiazol-2-yl]spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one
The title compound was prepared by a method analogous to that described in Example 14 from 3′-(5-bromothiazol-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one and 2-(tri-n-butylstannyl)pyridine. The title compound (35 mg) was obtained as a pale solid, m/z 343 (MH+).

reactant | 3′-(5-bromothiazol-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | BrC1=CN=C(S1)N1C(OC2(C1)CN1CCC2CC1)=O | C12H14BrN3O2S
reactant | 2-(tri-n-butylstannyl)pyridine | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
product | 3′-[5-(2-Pyridyl)thiazol-2-yl]spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | 35 mg | N1=C(C=CC=C1)C1=CN=C(S1)N1C(OC2(C1)CN1CCC2CC1)=O | C17H18N4O2S
